Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fever/flank pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ MEDICINE ATTENDING ADMISSION NOTE .

 

Date: ___

Time: 2340

_
________________________________________________________________

PCP: Dr. ___
. 
_
________________________________________________________________
HPI: 
The patient is a ___ year old female with h/o morbid obesity s/p 
RNY gastric bypass on ___ with an assocaited 50 lb weight 
loss who presents with recurrent fevers, left flank pain, nausea 
and vomiting x 3 weeks. She was in the ___ when 
she developed fevers on ___ along with a cough. She thought it 
was a URI and then four days later she developed ___  L flank 
pain with radiation to the front. + non-bloody emesis and 
nausea. She was admitted for one week in the ___ 
until ___ when she was diagnosed with an obstructing 12mm 
kidney stone with associated hydronephrosis. She was counselled 
that she would need the stone removed but was afraid to have the 
stone removed in ___. ___ was discharged with approx 2 weeks of 
abx which she recently completed 2 days ago. She re-presented 
several times after discharge from the ED in ___ ___ 
control. Finally from ___ onwards she started feeling better 
and felt well enough to travel so she started looking for 
tickets. She then flew to ___ on ___ and landed in ___. 
She spent the night in ___ and then flew to ___ on the 
morning of admission. She is no longer coughing. She denies 
cough, rhinorrhea, chest pain, the pain takes her pain away but 
she is not short of breath. She does not report, skin 
changes/rashes, no easy bruising or bleeding. + dysuria + 
constipation. Currently her pain is ___.  + continuous vaginal 
bleeding s/p IUD placement. 
Pain improved with pain medications She took tylenol prior to 
presenting to the ED. 
In ER: (Triage Vitals: 98.9 109 153/83 24 99% RA.)
Meds Given: dilaudid/toradol/dilaudid/zofran
Urology was consulted in the ED and they recommended CT scan to 
determine if the stone was still an obstructing one. 
.

.[X]all other systems negative except as noted above 

 
Past Medical History:
Past Medical History:
1.  Hypertension.
2.  Hyperlipidemia.
3.  Polycystic ovary disease.
4.  Fatty liver based on ultrasound.
5.  Cholelithiasis, which seems to be intermittently symptomatic 

    in that if she eats fatty foods she experiences some 
    epigastric pain.

Past Surgical History:
1.  Tonsillectomy at age ___.
2.  Wisdom tooth extraction.

 
Social History:
___
Family History:
Sister died of complications secondary to diabetes mellitus at 
age ___. Her sister was on hemodialysis. Her mother has HTN. 
 
Physical Exam:
PAIN SCORE ___  L flank

1. VS: T = 99.7 P = 84 BP = 113/67  RR = 18 O2Sat on  _100% RA 
GENERAL:  Lovely young female, nad
Nourishment: good  
+ thinning hair
2. Eyes: [] WNL 
EOMI without nystagmus, Conjunctiva: clear
3. ENT [] WNL
[] Moist  [] Endentulous  [] Ulcers  [] Erythema  [] JVD ____ cm
[X] Dry  [] Poor dentition  [] Thrush  [] Swelling  [] Exudate
4. Cardiovascular [] WNL
[] Regular  [] Tachy  [X] S1 [X] S2 [+] Systolic Murmur  ___, 
Location:LUSB
[] Irregular  []Brady []S3  [] S4  [] Diastolic Murmur    /6, 
Location:
[X] Edema RLE  None 
[X] Edema LLE None 
[X] Vascular access  [X] Peripheral [] Central site:
5. Respiratory [X]
[X] CTA bilaterally  [ ] Rales  [ ] Diminshed
[X] Comfortable     [ ] Rhonchi   [ ] Dullness
[ ] Percussion WNL  [ ] Wheeze   [] Egophony
6. Gastrointestinal [ ] WNL
Soft, non-tender
Well healed laparoscopy scars
+ stretch marks
[] Soft/firm  [-] Rebound [] No hepatomegaly  [] Non-tender [] 
Tender [] No splenomegaly
7. Musculoskeletal-Extremities [X] WNL
[ ] Tone WNL  [X]Upper extremity strength ___ and symmetrical  [ 
]Other:
[ ] Bulk WNL    [X] Lower extremity strength ___ and symmetrica 
[ ] Other:
[] Normal gait  []No cyanosis  [ ] No clubbing  [] No joint 
swelling
8. Neurological [X] WNL
[X] Alert and Oriented x 3 [ ] Romberg: Positive/Negative  [ ] 
CN II-XII intact  [ ] Normal attention  [ ] FNF/HTS WNL [] 
Sensation WNL  [ ] Delirious/confused  [ ] Asterixis 
Present/Absent  [ ] Position sense WNL
[ ] Demented  [ ] No pronator drift  [] Fluent speech
9. Integument  [X] WNL
[X] Warm  [] Dry  [] Cyanotic [] Rash: 
none/diffuse/face/trunk/back/limbs  
[ ] Cool [] Moist  [] Mottled  [] Ulcer: 
None/decubitus/sacral/heel: Right/Left
10. Psychiatric [X] WNL
[X] Appropriate [] Flat affect [] Anxious [] Manic [] 
Intoxicated [] Pleasant [] Depressed [] Agitated [] Psychotic 
[] Combative
11. Genitourinary [] WNL
No CVA tenderness apppreciated

 
Pertinent Results:
___ 06:10PM URINE  HOURS-RANDOM
___ 06:10PM URINE  UCG-NEGATIVE
___ 06:10PM URINE  COLOR-Yellow APPEAR-Hazy SP ___
___ 06:10PM URINE  BLOOD-MOD NITRITE-NEG PROTEIN-30 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-8.5* 
LEUK-MOD
___ 06:10PM URINE  HYALINE-1*
___ 06:10PM URINE  MUCOUS-RARE
___ 05:28PM   GLUCOSE-98 UREA N-10 CREAT-0.7 SODIUM-139 
POTASSIUM-3.7 CHLORIDE-101 TOTAL CO2-29 ANION GAP-13
___ 05:28PM   estGFR-Using this
___ 05:28PM   WBC-11.0 RBC-4.28 HGB-11.9* HCT-36.5 MCV-85 
MCH-27.7 MCHC-32.4 RDW-14.7
___ 05:28PM   NEUTS-70.1* ___ MONOS-5.2 EOS-1.4 
BASOS-0.4
___ 05:28PM   PLT COUNT-347
============================
Admission US
 
IMPRESSION:  No evidence of hydronephrosis.  Nonobstructing 
stones within the 
left kidney. 
  
CT SCAN
COMPARISON:  CT abdomen and pelvis from outside hospital from 
___. 
FINDINGS:  The right kidney measures 12.8 cm and the left kidney 
13.6 cm.  There is no evidence of hydronephrosis.  There are 
likely two small 
non-obstructing stones within the left kidney, similar to the 
previous exam.  The spleen is not enlarged, measuring 11 cm. The 
bladder is collapsed. IMPRESSION:  No evidence of 
hydronephrosis.  Nonobstructing stones within the left kidney. 
==================
IMPRESSION: 
1.  Interval resolution of left hydronephrosis and hydroureter 
and interval resolution of obstructing left distal ureteral 
stone. 
2.  2-mm non-obstructing left lower pole stone, similar to the 
prior CT as well as a punctate non-obstructing stone within the 
upper pole. 
3.  Unremarkable gastric bypass. 

MICROBIOLOGY
___ 6:10 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      ESCHERICHIA COLI.    >100,000 ORGANISMS/ML.. 
         PRESUMPTIVE IDENTIFICATION. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--    16 I
CEFAZOLIN-------------     8 R
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

 
Brief Hospital Course:
___ year old female with a history of gastric bypas in ___ 
with associated 50 lb weight loss who presents with 
nephrolithiasis and pyelonephritis. 

NEPHROLITHIASIS
PYELONEPHRITIS
Gastric bypass increases the risk of hyperoxaluria and risk of 
kidney stones which can be as high as 4% per year. She was 
treated with ceftriaxone initially, and then transitioned to 
cipro when the urine culture grew sensitive Ecoli. She was 
treated with pain medications and a bowel regimen as well. She 
will follow up with her PCP and bariatric surgeons as planned.
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Multivitamins W/minerals 1 TAB PO DAILY 
2. Calcitrate (calcium citrate) 500 mg oral bid 
3. biotin Dose is Unknown  oral daily 
4. Cyanocobalamin 500 mcg PO DAILY 
5. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1. Ciprofloxacin HCl 500 mg PO Q12H Duration: 2 Weeks 
RX *ciprofloxacin 500 mg 1 tablet(s) by mouth twice a day Disp 
#*24 Tablet Refills:*0
2. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*30 Capsule Refills:*0
3. Oxycodone-Acetaminophen (5mg-325mg) 1 TAB PO Q4H:PRN pain 
RX *oxycodone-acetaminophen 5 mg-325 mg 1 tablet(s) by mouth 
q4hprn Disp #*30 Tablet Refills:*0
4. Senna 8.6 mg PO BID:PRN constipation 
RX *sennosides 8.6 mg 1 tab by mouth bid prn Disp #*30 Tablet 
Refills:*0
5. biotin 500 mcg ORAL DAILY 
6. Calcitrate (calcium citrate) 500 mg oral bid 
7. Cyanocobalamin 500 mcg PO DAILY 
8. Multivitamins W/minerals 1 TAB PO DAILY 
9. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pyelonephritis
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
You were admitted with pyelonephritis (kidney infection). You 
were treated with antibiotics and pain medications. Your 
infection was likely due to an obstructing kidney stone that has 
since passed. 
 
Followup Instructions:
___